US08809339B2
5-chloro-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitrobenzamide
Into a 250-mL round bottom flask, was placed a solution of 5-(3,4-dimethylphenyl)pyrazin-2-amine (2 g, 10.04 mmol, 1.00 equiv) in dichloromethane (70 mL), pyridine (2.4 g, 30.34 mmol, 3.00 equiv), and a solution of 5-chloro-2-nitrobenzoyl chloride (2.21 g, 10.05 mmol, 1.00 equiv) in dichloromethane (20 mL). The resulting solution was stirred overnight at 25° C. in an oil bath, then diluted with 150 mL of dichloromethane and washed with 2×100 mL of diluted hydrochloric acid, 2×200 mL of brine and 2×100 mL of sodium carbonate (sat.), and then 2×200 mL of brine. The organic layer was dried over sodium sulfate and concentrated under vacuum. The crude product was triturated with 40 mL of ethyl acetate/n-hexane (1:1). This resulted in 3.66 g (95%) of 5-chloro-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitrobenzamide as an off-white solid.

reactant | 5-(3,4-dimethylphenyl)pyrazin-2-amine | 10.04 mmol, 2 g, 1.00 equiv | CC=1C=C(C=CC1C)C=1N=CC(=NC1)N | C12H13N3
reactant | pyridine | 30.34 mmol, 2.4 g, 3.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 5-chloro-2-nitrobenzoyl chloride | 10.05 mmol, 2.21 g, 1.00 equiv | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 5-chloro-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitrobenzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(N=C2)C2=CC(=C(C=C2)C)C)C1)[N+](=O)[O-] | C19H15ClN4O3
